Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / "cold"
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
Repair of forehead/occiput lacerations 

 
History of Present Illness:
Ms. ___ is a ___ with a hx of Diffuse Large B Cell 
Lymphoma(diagnosed ___ after biopsy of right tonsillar 
mass) currently on R-CHOP (s/p two cycles most recently on 
___ who presented to ___ ED by EMS s/p fall. 

Patient reports that after getting up from her bed slowly, she 
was walking towards the bathroom when she began to feel 
lightheaded. She started to back up, but fell to the ground 
after she struck her head on her armoire. She is able to recall 
the entire incident and family members who came to her side 
immediately report there was no loss of consciousness. Deny any 
chest palpitations, shortness of breath, tongue biting or loss 
of urinary/fecal continence associated with the episode. At the 
time of EMS arrival she was complaining of a generalized 
headache but denied any neck pain. 

Of note, patient and her family report that she has had poor PO 
intake and has felt generally weak over the past few days. She 
was seen in ___ clinic yesterday and prescribed 
levofloxacin iso of neutropenia. She was also given fluids in 
clinic yesterday, however had an episode of emesis at 10pm last 
night. She denies any fevers, chills, diarrhea, dysuria, or sick 
contacts in the past few days but does endorse a poor appetite, 
nausea, and vomiting. 

On initial presentation to the ED patient was noted to be in 
Afib w/ RVR (no known hx) with HR 140s for which she received 
15mg IV diltiazem and was loaded with PO dose. Vitals were 
otherwise stable. Labs notable for leukopenia (0.9), 
thrombocytopenia (87) and lactate 2.5. UA and CXR were negative 
for acute process. 

Imaging included CT head negative for acute bleed, CT C-spine 
without cervical injury, and CT chest-- notable for a T8 
compression fracture without evidence of retropulsion or cord 
edema. She was evaluated by ACS and neurosurgery who recommended 
MRI Tspine w/wo contrast to evaluate for possible underlying 
malignant etiology of fracture. Prior to transfer to the floor 
head lacerations were sutured/stapled. 

REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI.  
 
Past Medical History:
Possible TIA, ?atrial mass, IBS, rectal prolapse, GERD, 
osteoporosis, Cataracts

Her surgical history includes open gallbladder ___, and hernia 
repair in ___. She also had bunion surgery sometime in the 
early ___.
 
Social History:
___
Family History:
Son with recent intracerebral hemorrhage, attributed to 
hypertension. 
 
Physical Exam:
ADMISSION PHYSICAL 
Vitals:  T98.3 BP 110/52 HR75 RR16 98RA 
GENERAL: thin, appears malnourished, NAD
HEENT: pupils reactive to light, dry mucus membranes, little
thrush on tongue, forehead with large laceration to R frontal
scalp s/p sutures and superficial laceration to occipital scalp,
no other ecchymoses 
NECK: supple
LUNGS: CTAB, good airmovement
HEART: regular rate and rhythm, no murmurs
ABD: soft, nontender 
BACK: prominent spinal processes, no TTP 
EXT: b/l lower extremities warm to touch, no edema  
NEURO:  oriented x 3, motor strength ___ in all extremities,
sensation grossly intact 
ACCESS: PIV on L hand 

DISCHARGE PHYSICAL 
VITALS: 97.7 130/69BP 66HR 18RR 98%Ra
GENERAL: tearful at times, thin, NAD 
HEENT: 4-5 cm laceration on R forehead with sutures, R occiput 
with small 1cm laceration with staples, pink mmm 
NECK: supple
PULM: CTAB 
CV: rrr, no murmurs, no tenderness to palpation of chest wall
BACK: spinal processes without tenderness
EXT: vericose veins, warm to touch 
NEURO: oriented x 3, grossly moving all extremities, sensation 
grossly intact

 
Pertinent Results:
ADMISSION LABS
___ 03:55PM   HYPOCHROM-OCCASIONAL ANISOCYT-OCCASIONAL 
POIKILOCY-OCCASIONAL MACROCYT-1+* MICROCYT-1+* POLYCHROM-NORMAL 
OVALOCYT-OCCASIONAL
___ 03:55PM   WBC-0.9* RBC-3.67* HGB-11.6 HCT-35.1 MCV-96 
MCH-31.6 MCHC-33.0 RDW-14.6 RDWSD-50.6*
___ 03:55PM   CALCIUM-9.6 PHOSPHATE-4.3 MAGNESIUM-2.0 URIC 
ACID-3.3
___ 03:55PM   ALT(SGPT)-20 AST(SGOT)-13 ALK PHOS-113* TOT 
BILI-1.0
___ 03:55PM   UREA N-17 CREAT-0.6 SODIUM-137 POTASSIUM-4.2 
CHLORIDE-96 TOTAL CO2-30 ANION GAP-11
___ 03:55PM   GLUCOSE-133*

DISCHARGE LABS
___ 06:02AM BLOOD WBC-8.1 RBC-3.23* Hgb-10.3* Hct-31.2* 
MCV-97 MCH-31.9 MCHC-33.0 RDW-15.0 RDWSD-51.7* Plt ___
___ 06:02AM BLOOD Glucose-93 UreaN-7 Creat-0.6 Na-142 K-4.1 
Cl-103 HCO3-30 AnGap-9*
___ 06:02AM BLOOD Cortsol-9.9
___ 08:00AM BLOOD Cortsol-14.4
___ 09:00AM BLOOD Cortsol-19.8
___ 09:30AM BLOOD Cortsol-25.0*

PERTINENT IMAGING 
CT CHEST ___ 
Acute compression fracture through the entire T8 vertebral body 
without
significant retropulsion, new since ___.

CT C-SPINE ___
1. No cervical spine fracture.  No prevertebral edema.

CT HEAD ___ 
No acute intracranial process

CHEST PA AND LATERAL ___
No acute cardiopulmonary process.
Compression deformity of a mid-thoracic vertebra is new since 
___.

MR THORACIC SPINE (INCOMPLETE) ___ 
1. Moderate, probable late acute versus early subacute 
compression deformity of the T8 vertebral body without 
appreciable bony retropulsion into the canal. No evidence of 
cortical expansion or rounded edema signal within the vertebral
body to suggest underlying mass.
2. No additional sites of acute or subacute compression 
deformity.
3. Multiple chronic vertebral body compression deformities, as 
above.
4. Multilevel spondylosis of the thoracic spine without 
moderate/severe canal stenosis.
5. Additional findings, as above.
6. Please note, examination is suboptimal secondary to moderate 
motion
artifact as well as lack of axial sequences.

 
Brief Hospital Course:
Ms. ___ is a ___ with a hx of Diffuse Large B Cell 
Lymphoma(diagnosed ___ after biopsy of right tonsillar 
mass) currently on R-CHOP (s/p two cycles most recently on 
___ who presented to ___ ED by EMS s/p what appears to be 
a syncopal fall in the setting of poor PO intake and 
dehydration, found to have new onset Atrial Fibrillation. 

#T8 Compression Fracture s/p traumatic fall: CT chest on 
admission notable for notable for a T8 compression fracture 
without evidence of retropulsion or cord edema. Compression 
fracture most likely secondary to trauma. Per neurosurgery 
recommendations, the patient was fitted for a TLSO brace that 
she will need to continue using when out of bed until follow-up 
with neurosurgery. Pain was controlled with lidocaine patch, 
Tylenol, and PRN oxycodone. 

#s/p Fall: Patient reports lightheadedness preceding her fall on 
the way to the bathroom. Fall appears to be likely secondary to 
orthostatic hypotension in the setting of emesis, poor PO intake 
and atrial fibrillation with RVR. Notably, patient had poor 
intake the days preceding her hospital admission with an episode 
of emesis the evening prior. Imaging on admission included CT 
head negative for acute bleed, CT C-spine without cervical 
injury, and CT chest notable for T8 compression fracture. Head 
lacerations were sutured/stapled in the ED. Patient was given 
IVF and monitored on telemetry. Fall work up included 
orthostatic vitals that were normal on the day of discharge and 
TTE which reported an EF 55% with mild posterior leaflet mitral 
valve prolapse. Given hx of steroid use, adrenal insufficiency 
as a cause of hypotension was also ruled out with cosyntropin 
stim test. The patient was seen and cleared by ___ prior to 
discharge home. 

#New onset Afib w/RVR: On initial presentation to the ED patient 
was noted to be in Afib w/ RVR (no known hx) with HR 140s for 
which she received 15mg IV diltiazem and was loaded with PO 
diltiazem. Vitals were otherwise stable and toxometabolic work 
up was negative. New onset Afib w/RVR likely precipitated by 
volume status. The patient was monitored on telemetry and 
remained in NSR throughout hospitalization. Given patient's high 
fall-risk in setting of ongoing chemotherapy for lymphoma, 
alongside history of cerebral amyloid angiopathy, the risk of 
anticoagulation at this time was thought to be higher than 
benefit. TTE reported EF=55% without any visible clot. Patient's 
outpatient Neurologist made aware of decision, at this point, 
not to anticoagulate via email correspondence. Patient and 
family counseled about the risk benefit considerations and 
expressed a good understanding of the above. On ___ the patient 
was transitioned to an increased dose of long acting diltiazem 
(previously maintained on short acting), which was complicated 
by an episode of bradycardia and hypotension. The medication was 
discontinued due to intolerance and she was subsequently 
switched to PO metoprolol tartrate with good effect. She was 
discharged on metoprolol succinate 37.5mg. 

#Large B Cell Lymphoma: On R-CHOP (last dose ___. 
Thrombocytopenic (PLT 87) and neutropenic on admission (WBC 0.9, 
ANC 0.29). Patient was continued on acyclovir for prophylaxis. 
She remained afebrile throughout hospitalization with negative 
cultures and infectious work up. 

TRANSITIONAL ISSUES 
===================
[]T8 Compression Fx: Patient discharged with TLSO brace. She 
will need follow with Dr. ___ in ___ weeks with 
thoracic XR AP and lateral to assess for fracture progression 
[]New onset Afib w/RVR: Noted on admission with conversion to 
NSR with diltiazem. Patient later switched to metoprolol 
succinate. Trace mitral valve prolapse also noted on TTE. 
Consider cardiology follow-up. 
[]Continue to consider risks and benefits of anticoagulation for 
this patient.  
[]Head lacerations (R forehead with six sutures and occipital 
with 2 staples) repaired in the ED. Patient will need 
sutures/staples removed in about two weeks -- if possible please 
remove at heme/onc follow-up on ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN nausea 
2. PredniSONE 100 mg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Prochlorperazine 10 mg PO Q8H:PRN nausea 
5. Docusate Sodium 100 mg PO BID 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. Senna 8.6 mg PO BID 
8. Pegfilgrastim Onpro (On Body Injector)  6 mg SC ONCE 
9. Acyclovir 400 mg PO Q8H 
10. OxyCODONE (Immediate Release) 5 mg PO Q6H 
11. ___ ___ UNIT PO Q8H 
12. Omeprazole 20 mg PO DAILY 
13. Levofloxacin 750 mg PO Q24H 
14. Calcium Carbonate 500 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Moderate 
RX *acetaminophen 325 mg ___ capsule(s) by mouth q6h PRN Disp 
#*150 Capsule Refills:*0 
2.  Lidocaine 5% Patch 1 PTCH TD QAM back pain  
apply to site of back pain  
RX *lidocaine 5 % apply 1 patch to back daily Disp #*30 Patch 
Refills:*0 
3.  Metoprolol Succinate XL 37.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 1.5 tablet(s) by mouth daily Disp 
#*45 Tablet Refills:*0 
4.  Acyclovir 400 mg PO Q8H  
5.  Allopurinol ___ mg PO DAILY  
6.  Calcium Carbonate 500 mg PO BID  
7.  Docusate Sodium 100 mg PO BID  
8.  ___ ___ UNIT PO Q8H  
9.  Omeprazole 20 mg PO DAILY  
10.  Ondansetron 4 mg PO Q8H:PRN nausea  
11.  OxyCODONE (Immediate Release) 5 mg PO Q6H  
12.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
13.  Prochlorperazine 10 mg PO Q8H:PRN nausea  
14.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p fall 
T8 Compression Fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ after 
you suffered a fall at home. We think this fall was related to 
dehydration and your poor appetite. You were given IV fluids and 
your symptoms improved. Imaging showed a fracture of your 
T8(thoracic) vertebra. To treat this injury you were fitted with 
a brace that you should continue to wear whenever you are out of 
bed until you follow up with neurosurgery. The two small 
lacerations on your head were repaired in the emergency 
department. You will need to have the staples/sutures removed by 
your primary care physician in two weeks. 

You were also found to have an irregular heart rhythm called 
atrial fibrillation. You are being prescribed a new medication 
for this called metoprolol succinate that you should continue to 
take daily. Imaging of your heart showed a normal function. Your 
heart rhythm was monitored closely and appeared stable for the 
rest of your hospitalization. 

You were seen by physical therapy and are now ready to be 
discharged home. 

It was a pleasure taking care of you, 
Your ___ Care Team 
 
Followup Instructions:
___